US07501407B2
[(6-{[2-(Acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetic acid (25)
Methyl [(6-{[2-(acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetate (50 mg) was dissolved in DMSO (420 μl) with stirring. To this were added 4-benzylpiperidine (74 μl) and activated powdered 4 angstrom molecular sieves and the mixture left to stir at room temperature for 5 hrs. After this time the reaction was filtered and first dichloromethane (1.6 ml) then PS-NCO (0.58 g) were added and the mixture left to stir for 1 hr. The resulting slurry was filtered, then partitioned between dichloromethane (20 ml) and water (20 ml), and the aqueous layer extracted with dichloromethane (2×20 ml). The combined organics were dried over magnesium sulfate, filtered and the solvent removed in vacuo. Further purification via column chromatography on silica gel eluting with a mixture of dichloromethane and methanol (94:6 v/v) furnished the title compound (33 mg).

reactant | Methyl [(6-{[2-(acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetate | 50 mg | C(C)(=O)NCCNC1=CC(=NC(=N1)C1=CC=CC=C1)NC(C(=O)OC)=O | C17H19N5O4
reactant | 4-benzylpiperidine | 74 μl | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | DMSO | 420 μl | CS(=O)C | C2H6OS
product | [(6-{[2-(Acetylamino)ethyl]amino}-2-phenylpyrimidin-4-yl)amino](oxo)acetic acid | 33 mg | C(C)(=O)NCCNC1=CC(=NC(=N1)C1=CC=CC=C1)NC(C(=O)O)=O | C16H17N5O4
